US06794400B2
4-(Bicyclo[2.2.1]hept-5-en-2-yl)-1-[4-(trifluoromethyl)benzylidene]thiosemicarbazide
The title compound was prepared from a mixture of N1-bicyclo[2.2.1]hept-5-en-2-ylhydrazine-1-carbothioamide (100 mg, 0.56 mmol) and α,α,α-trifluoro-p-tolualdehyde (76 μL, 0.56 mmol) similar to Example 3 and isolated as a white solid (60 mg, 32%). 1H NMR (CDCl3): 9.14 (s, 1H), 7.78 (s, 1H), 7.73 (d, J=8.7 Hz, 2H), 7.67 (d, J=8.7 Hz, 2H), 7.46 (d, J=7.2 Hz, 1H), 6.25-6.14 (m, 2H), 4.30-4.26 (m, 1H), 3.07 (s, 1H), 2.98 (s, 1H), 1.96-1.88 (m, 1H), 1.69 (d, J=9.0 Hz, 1H), 1.51 (d, J=8.7 Hz, 1H), 1.46-1.40(m, 1H).

reactant | N1-bicyclo[2.2.1]hept-5-en-2-ylhydrazine-1-carbothioamide | 0.56 mmol, 100 mg | C12C(CC(C=C1)C2)NC(=S)NN | C8H13N3S
reactant | α,α,α-trifluoro-p-tolualdehyde | 0.56 mmol, 76 μL | FC(C1=CC=C(C=C1)C=O)(F)F | C8H5F3O
product | 4-(Bicyclo[2.2.1]hept-5-en-2-yl)-1-[4-(trifluoromethyl)benzylidene]thiosemicarbazide | C12C(CC(C=C1)C2)NC(NN=CC2=CC=C(C=C2)C(F)(F)F)=S | C16H16F3N3S
